US06288061B1
tert-Butyl 2-hydroxyimino-3-oxo-3-(4-pyridyl)propionate (5.0 g) and 1-naphthylmethylamine (3.5 g) were dissolved in toluene (60 ml). The mixture was refluxed under heating for 3 hr while dehydrating with Dean-stark trap. After cooling, the precipitated crystals were collected by filtration and dried to give tert-butyl 2-(1-naphthyl)-5-(4-pyridyl)imidazole-4-carboxylate (1.3 g), melting point 184-190° C.

reactant | tert-Butyl 2-hydroxyimino-3-oxo-3-(4-pyridyl)propionate | 5.0 g | ON=C(C(=O)OC(C)(C)C)C(C1=CC=NC=C1)=O | C12H14N2O4
reactant | 1-naphthylmethylamine | 3.5 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(1-naphthyl)-5-(4-pyridyl)imidazole-4-carboxylate | 1.3 g | C1(=CC=CC2=CC=CC=C12)C=1NC(=C(N1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C23H21N3O2
